US04820726
5,530 mg of sodium hydride are added to a solution of 7.46 g of 3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-nitrobenzene in 75 ml of dimethylformamide and the reaction mixture is warmed to 40°. 5.7 g of methyl iodide are added dropwise in the course of 15 minutes. Thereafter, the reaction mixture is kept at 40° C. for a further hour. After cooling, it is poured onto dilute hydrochloric acid and extracted with methylene chloride and the extract is evaporated. Recrystallisation from ether/hexane gives 3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-nitrobenzene.

reactant | sodium hydride | 5,530 mg | [H-].[Na+]
reactant | 3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-nitrobenzene | 7.46 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)[N+](=O)[O-])C=C1)CCC(F)(F)F)O | C20H20F3NO6
reactant | methyl iodide | 5.7 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-nitrobenzene | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)[N+](=O)[O-])C=C1)CCC(F)(F)F)OC | C21H22F3NO6
